US09422244B2
2.80 g (1 mol equiv.) 4-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid (2,2,2-trifluoro-ethyl)-amide was dissolved in 56 mL methanol; 7.3 mL (10 mol equiv.) iodomethane was added and the reaction mixture was heated at 50° C. for 4 hours. Volatiles were removed under reduced pressure, and the residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O:PA=1:1) afforded 0.57 g (19%) 4-ethyl-N-(2,2,2-trifluoro-ethyl)-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 0.99 (t, J=7.5 Hz, 3H), 1.46-1.70 (m, 2H), 2.48 (s, 3H), 3.01-3.11 (m, 1H), 3.50 (dd, J=11.5, 7.8 Hz, 1H), 3.90 (t, J=11.5 Hz, 1H), 3.99-4.11 (m, 2H), 6.85 (d, J=1.5 Hz, 1H).

reactant | 4-Ethyl-4,5-dihydro-pyrazole-1-carbothioic acid (2,2,2-trifluoro-ethyl)-amide | 1 mol, 2.80 g | FC(CNC(=S)N1N=CC(C1)CC)(F)F | C8H12F3N3S
reactant | iodomethane | 10 mol, 7.3 mL | IC | CH3I
solvent | methanol | 56 mL | CO | CH4O
product | 4-ethyl-N-(2,2,2-trifluoro-ethyl)-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 0.57 g, 19% | CSC(=NCC(F)(F)F)N1N=CC(C1)CC | C9H14F3N3S
